US07521446B2
trans-2-(4-Aminocyclohexyl)propan-2-ol
3.85 g of trans-2-{4-[N,N-dibenzylamino]cyclohexyl}propan-2-ol (11.40 mmol) was combined with 3.3 g of 20 wt % palladium hydroxide and dissolved with 100 mL of anhydrous ethyl alcohol. The mixture was flushed with H2 (4×) before a H2 balloon was inserted into the reaction and allowed to stir overnight. N2 was bubbled through for about 20 minutes and the catalyst was filtered off. The reaction was washed with methanol. The filtrate was concentrated in vacuo and redissolved in acetonitrile and sonicated which produced a white solid. The mixture was filtered and 0.67 g of white product was obtained (37% yield).

reactant | trans-2-{4-[N,N-dibenzylamino]cyclohexyl}propan-2-ol | 11.40 mmol, 3.85 g | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)[C@@H]1CC[C@H](CC1)C(C)(C)O | C23H31NO
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
solvent | ethyl alcohol | 100 mL | C(C)O | C2H6O
product | trans-2-(4-Aminocyclohexyl)propan-2-ol | 0.67 g, 37% yield | N[C@@H]1CC[C@H](CC1)C(C)(C)O | C9H19NO
